US06746729B1
A degassed mixture of pure 6-(6-bromonaphthalen-2-yloxy)hexan-1-ol (5.88 g), 4-[6-(tetrahydropyran-2-yloxy)hexyloxy]phenyl acetylene (6.05 g), triphenylphosphine (0.21 g), copper(I) iodide (0.04 g) and bis(triphenylphosphine)palladium dichloride (0.14 g) in 60 ml of triethylamine was refluxed for 2 hours under an atmosphere of argon. The reaction mixture was cooled and filtered though celite to give a yellowish solution which was then evaporated to dryness to give a yellow residue, which was purified by chromatography using a silica gel column and cyclohexane/ethyl acetate (2:1, 1:1) as eluent, followed by recrystallisation of the resulting solid from cyclohexane/ethyl acetate (100 ml/3 ml) to give 5.10 g of 6-[6-[4-[6-(tetra-hydropyran-2-yloxy)hexyloxy]phenylethyny]naphthalen-2-yloxy]hexan-1-ol as a white powder.

reactant | 6-(6-bromonaphthalen-2-yloxy)hexan-1-ol | 5.88 g | BrC=1C=C2C=CC(=CC2=CC1)OCCCCCCO | C16H19BrO2
reactant | 4-[6-(tetrahydropyran-2-yloxy)hexyloxy]phenyl acetylene | 6.05 g | O1C(CCCC1)OCCCCCCOC1=CC=C(C=C1)C#C | C19H26O3
solvent | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.04 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium dichloride | 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 6-[6-[4-[6-(tetra-hydropyran-2-yloxy)hexyloxy]phenylethyny]naphthalen-2-yloxy]hexan-1-ol | 5.10 g | O1C(CCCC1)OCCCCCCOC1=CC=C(C=C1)C#CC=1C=C2C=CC(=CC2=CC1)OCCCCCCO | C35H44O5
